US04079146
Tetramethylammonium Zinc Ethylene-bis-dithiocarbamic acid-Dimethyldithiocarbamic acid
To a well stirred aqueous solution of 6.85g. (0.027 mole) of sodium ethylene-bis-dithiocarbamate, 9.0g., (0.05 mole) of sodium dimethyldithiocarbamate and 10.9g. (0.1 mole) of tetramethylammonium chloride is added dropwise at room temperature 6.96g. (0.05 mole) of zinc chloride dissolved in 30 ml. of water. A very fine dispersed white precipitate forms immediately. The reaction mixture is stirred for an additional ten minutes then filtered under vacuum. The collected solid is transferred to a beaker, reslurried with water, then filtered again. The white solid is air-dried for two days then dried under vacuum at 45° C. until it reaches a constant weight. A total of 15.2g. of products mp. 128°-132° C. is obtained.

reactant | sodium ethylene-bis-dithiocarbamate | 0.027 mole | C(CNC([S-])=S)NC([S-])=S.[Na+].[Na+]
reactant | sodium dimethyldithiocarbamate | 0.05 mole | CN(C([S-])=S)C.[Na+]
reactant | zinc chloride | 0.05 mole | [Cl-].[Zn+2].[Cl-]
catalyst | tetramethylammonium chloride | 0.1 mole | [Cl-].C[N+](C)(C)C
solvent | water | O | H2O
product | Tetramethylammonium Zinc Ethylene-bis-dithiocarbamic acid Dimethyldithiocarbamic acid | C(CNC(S)=S)NC(S)=S.[Zn+2].C[N+](C)(C)C.CN(C(S)=S)C | InChI=1S/C4H8N2S4.C4H12N.C3H7NS2.Zn/c7-3(8)5-1-2-6-4(9)10;1-5(2,3)4;1-4(2)3(5)6;/h1-2H2,(H2,5,7,8)(H2,6,9,10);1-4H3;1-2H3,(H,5,6);/q;+1;;+2
